US08389743B2
3-(3-Fluoro-4-pyrrolidin-1-ylmethyl-phenyl)-cyclobutanecarboxylic acid ethylamide
To Example 12, 3-(3-Fluoro-4-pyrrolidin-1-ylmethyl-phenyl)-3-hydroxy-cyclobutanecarboxylic acid ethylamide (17 g, 53.1 mmol) in 200 mL of DCE at rt was added TFA (80.7 mL, 1.1 mol) and then the reaction was heated to 80° C. (oil bath). After 15 h the reaction was concentrated to approximately 45 g and used without further purification. The crude TFA salt from the above reaction was diluted with EtOH (500 mL), placed in a Parr bottle, purged with N2, and then 10% Pd/carbon (2.5 g, 14 wt %) was added. The resulting reaction mixture was hydrogenated with H2 (45 psi) at rt. After 1.5 h the reaction was purged with N2, then filtered through Celite™ and concentrated under reduced pressure. The resulting oil was diluted with EtOAc and then slowly quenched with a saturated solution of sodium bicarbonate. The layers were separated and the aqueous layer was back extracted with EtOAc. The combined organic layers were dried over MgSO4, filtered and concentrated under reduced pressure. Purification of this material was accomplished by re-crystallization. Crude title compound was taken up in a minimal amount of warm EtOAc and allowed to cool to approximately 0° C. (refrigerator). The solid was filtered, dried under reduced pressure to give the title compound (4 g, 24% yield) as a white solid: Rf=0.21 (10% MeOH/CH2Cl2); LRMS m/z Calcd for C18H25FN2O, 304.4, found, 305.3; 1H NMR (300 MHz, CDCl3): δ 7.30 (apt t, J=7.9 Hz, 1H), 6.98 (dd, J=7.9, 1.6 Hz, 1H), 6.92 (dd, J=12.0, 1.6 Hz, 1H), 5.36 (bs, 1H), 3.67 (s, 2H), 3.42-3.26 (m, 3H), 2.94-2.85 (m, 1H), 2.57-2.50 (m, 6H), 2.42-2.33 (m, 2H), 1.82-1.74 (m, 4H), 1.14 (t, J=7.5 Hz, 3H); structure confirmed by x-ray crystallography and was determined to be cis.

reactant | 3-(3-Fluoro-4-pyrrolidin-1-ylmethyl-phenyl)-3-hydroxy-cyclobutanecarboxylic acid ethylamide | 53.1 mmol, 17 g | C(C)NC(=O)C1CC(C1)(O)C1=CC(=C(C=C1)CN1CCCC1)F | C18H25FN2O2
reactant | TFA | 1.1 mol, 80.7 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCE | 200 mL | ClCCCl | C2H4Cl2
solvent | EtOH | 500 mL | CCO | C2H6O
product | 3-(3-Fluoro-4-pyrrolidin-1-ylmethyl-phenyl)-cyclobutanecarboxylic acid ethylamide | 4 g, 24% yield | C(C)NC(=O)C1CC(C1)C1=CC(=C(C=C1)CN1CCCC1)F | C18H25FN2O
